US06468607B1
7.4 g of 2-(3,4-difluorophenyl)-6-(1-propynyl)naphthalene was dissolved in 80 ml of ethyl acetate. To the solution was then added 1.5 g of 5% palladium carbon. Hydrogen was then introduced into the reaction mixture at ordinary temperature and pressure. The reaction mixture was then stirred for 6 hours. The catalyst was then removed by filtration. The solvent was then distilled off to obtain 7.2 g of 2-(3,4-difluorophenyl)-6-propylnaphthalene. The product was then recrystallized from methanol to obtain 4.2 g of a purified product. (Cr 62.5 I)

reactant | 2-(3,4-difluorophenyl)-6-(1-propynyl)naphthalene | 7.4 g | FC=1C=C(C=CC1F)C1=CC2=CC=C(C=C2C=C1)C#CC | C19H12F2
reactant | Hydrogen | [H][H] | H2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 1.5 g | [C].[Pd]
product | 2-(3,4-difluorophenyl)-6-propylnaphthalene | 7.2 g | FC=1C=C(C=CC1F)C1=CC2=CC=C(C=C2C=C1)CCC | C19H16F2
